US07456186B2
Preparation of 1-(3-Bromo-4-fluorophenyl)-1-(2-tetrahydropyrimidinyl)methanol
A mixture of ethyl 2-(3-bromo-4-fluorophenyl)-2-hydroxyethanimidoate Hydrochloride (39.8 g, 127 mmol) and 1,3-diaminopropane (9.43 g, 127 mmol) in ethanol is heated at 120° C. in a sealed tube overnight, cooled to room temperature, concentrated to remove the solvent, diluted with water, stirred vigorously for 1 h and filtered. The filtrate is cooled with an ice bath, made strongly basic with 1 N NaOH, cooled for 1 h in an ice bath and filtered. The filtercake is dried to afford th title compound as a white solid 23.4 g (64% yield), identified by NMR and mass spectral analyses. 1H NMR (500 MHz, CDCl3) δ 7.59 (m, 1H), 7.30 (m, 1H), 7.10 (t, J=8.4 Hz, 1H), 4.79 (s, 1H), 3.35 (m, 4H), 1.76 (m, 2H); ESI MS m/z 287 [C11H12BrFN2O+H]+.

reactant | ethyl 2-(3-bromo-4-fluorophenyl)-2-hydroxyethanimidoate Hydrochloride | 127 mmol, 39.8 g | Cl.BrC=1C=C(C=CC1F)C(C(OCC)=N)O
reactant | 1,3-diaminopropane | 127 mmol, 9.43 g | NCCCN | C3H10N2
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-Bromo-4-fluorophenyl)-1-(2-tetrahydropyrimidinyl)methanol | 23.4 g, 64% yield | BrC=1C=C(C=CC1F)C(O)C1NC=CCN1 | C11H12BrFN2O
